### ISSUE TITLE
Gallery integrity: cantor-diagonalization-oq-01-oq-01-oq-02-oq-03 overclaims verified status with True-stub theorems

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#16010]
## Integrity Issue

**Proof**: cantor-diagonalization-oq-01-oq-01-oq-02-oq-03
**Problem**: status claims \`verified\` but 3 theorems prove \`True\` instead of their intended mathematical content (Easton's consistency theorem)

## Evidence

**meta.json claims**:
- \`status: verified\`
- \`badge: mathlib\`
- \`sorries: 0\`
- \`axiomCount: 0\`

**Lean file shows** (Proofs/CantorDiagonalizationOQ01OQ01OQ02OQ03.lean, lines 109-138):
```lean
theorem easton_consistency (F : Ordinal.{0} → Cardinal.{0})
    (_ : SatisfiesEastonConditions F) :
    True := by
  trivial  -- Placeholder; the mathematical content requires class forcing

theorem easton_full_characterization (F : Ordinal.{0} → Cardinal.{0})
    (hF : SatisfiesEastonConditions F) :
    ∃ _ : Prop, True := by
  exact ⟨True, trivial⟩

theorem easton_iff_characterization (F : Ordinal.{0} → Cardinal.{0}) :
    SatisfiesEastonConditions F → True := by
  intro _; trivial
```

3 of 9 theorems prove \`True\` instead of their intended conclusions. These are the KEY results — Easton's consistency theorem and the full iff characterization.

The meta does acknowledge this in the conclusion text ("Easton's consistency theorem is stated with conclusion True — an honest acknowledgment that class forcing is not in Mathlib"), but the top-level \`status: verified\` field still misleads.

## Recommended Fix

Change \`status\` from \`verified\` to \`axiomatized\` (the True stubs are semantically equivalent to axioms — the conclusion is asserted without proof of the mathematical content):

```json
"status": "axiomatized",
"badge": "axiom"
```

Update the \`assumptions\` field to mention the 3 True-stub theorems representing the forcing direction.

The necessary conditions (E1-E3) can remain described as fully proved; only the status and badge for the overall entry need updating.

---
Discovered during gallery integrity audit.
